US07829585B2
C-(2-phenoxymethyl-benzofuran-5-yl)-methylamine
A tetrahydrofuran (1 mL) solution of 2-phenoxymethyl-benzofuran-5-carbonitrile (25 mg, 0.1 mmol) described in Production Example 75-1-2 was dropped into a tetrahydrofuran (5 mL) suspension of lithium aluminum hydride (19 mg, 0.5 mmol). This mixture was stirred at room temperature for 3 hours and 45 minutes. After adding ice water to the reaction mixture and stirring, insoluble matter was filtered out through Celite followed by rinsing with ethyl acetate. The organic layer was separated followed by washing with sat. NaCl, drying over anhydrous magnesium sulfate and concentrating under a reduced pressure to obtain the title compound (12 mg, 47%).

reactant | 2-phenoxymethyl-benzofuran-5-carbonitrile | 0.1 mmol, 25 mg | O(C1=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)C#N | C16H11NO2
reactant | lithium aluminum hydride | 0.5 mmol, 19 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | C-(2-phenoxymethyl-benzofuran-5-yl)-methylamine | 12 mg, 47% | O(C1=CC=CC=C1)CC=1OC2=C(C1)C=C(C=C2)CN | C16H15NO2
